US08278343B2
Preparation 28b: 3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4′-hydroxy-4-biphenyl carbonitrile and 3-Iodomethyl-1-(4-methoxy-benzoyl) pyrrolidine-3-carboxylic acid ethyl ester (Preparation 14) to afford the racemate as a white solid (124 mg, 71%)

reactant | 4′-hydroxy-4-biphenyl carbonitrile | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | 3-Iodomethyl-1-(4-methoxy-benzoyl) pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CI | C16H20INO4
product | 3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C29H28N2O5
